US06825349B2
To a solution of ethyl 4-pyrazole carboxylate (3.57 mmol) in acetone (30 ml) was added potassium carbonate (35.7 mmol) and 1-bromo-3-phenylpropane (3.57 mmol). The suspension was refluxed overnight, after which the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and water, the organic layer dried over magnesium sulfate, filtered, and the filtrate evaporated under reduced pressure to give an oil, which was purified by preparative TLC, to give ethyl 1-(3-phenylpropyl)pyrazole-4-carboxylate.

reactant | ethyl 4-pyrazole carboxylate | 3.57 mmol | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | potassium carbonate | 35.7 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-phenylpropane | 3.57 mmol | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | ethyl 1-(3-phenylpropyl)pyrazole-4-carboxylate | C1(=CC=CC=C1)CCCN1N=CC(=C1)C(=O)OCC | C15H18N2O2
